US04072583
It will be noted that when sodium iodide, which is soluble in acetonitrile without added crown ether, is employed instead of the mixture of tetraethylammonium bromide and sodium bromide, only one of the anionic sites in substantially all the tetraethyl ethane-1,1,2,2-tetracarboxylate dianion is utilized for proton abstraction. Thus one of the anionic sites is available for reaction with carbon dioxide to yield the sodium tetraethyl ethane-1,1,1,2,2-pentacarboxylate, which precipitates in the catholyte along with the disodium 4-methyl-3,5-dioxo-6H,1,4-oxazine-2,O3 -dicarboxylate. The mixture is readily separated, however, by treatment with water.

reactant | sodium iodide | [I-].[Na+]
reactant | sodium bromide | [Br-].[Na+]
reactant | tetraethyl ethane-1,1,2,2-tetracarboxylate | C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C(=O)OCC | C14H22O8
reactant | carbon dioxide | C(=O)=O | CO2
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | tetraethylammonium bromide | [Br-].C(C)[N+](CC)(CC)CC
product | sodium tetraethyl ethane-1,1,1,2,2-pentacarboxylate | C(C(C(=O)OCC)C(=O)[O-])(C(=O)OCC)(C(=O)OCC)C(=O)OCC.[Na+] | InChI=1S/C15H22O10.Na/c1-5-22-11(18)9(10(16)17)15(12(19)23-6-2,13(20)24-7-3)14(21)25-8-4;/h9H,5-8H2,1-4H3,(H,16,17);/q;+1/p-1
